US06441017B1
Step F: 5-Amino-3-(tert-butyldimethylsilyloxy)quinoline
3-(tert-Butyldimethylsilyloxy)-5-nitroquinoline, as described above in Step E, (4.58 g, 15.04 mmol) was dissolved in EtOH (150 mL) and EtOAc (150 mL), the vessel was degassed, Pd/C (0.458 g, 10 wt %) was added and the mixture was subjected to H2 (1 atm) with vigorous stirring for 1 hour. The mixture was filtered through a celite pad and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with a gradient of 0% to 10% EtOAc in CH2Cl2, to yield the above-titled compound.

reactant | 3-(tert-Butyldimethylsilyloxy)-5-nitroquinoline | [Si](C)(C)(C(C)(C)C)OC=1C=NC2=CC=CC(=C2C1)[N+](=O)[O-] | C15H20N2O3Si
solvent | EtOH | 150 mL | CCO | C2H6O
product | 5-Amino-3-(tert-butyldimethylsilyloxy)quinoline | NC1=C2C=C(C=NC2=CC=C1)O[Si](C)(C)C(C)(C)C | C15H22N2OSi
